US07241785B2
A mixture of methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionate (1.00 g), lithium hydroxide hydrate (171 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 1 hr. 1N Hydrochloric acid (5.8 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionic acid (918 mg, yield 94%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 142–143° C.

reactant | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionate | 1.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC=2OC(=C(N2)C2=CC=CC=C2)CCC(=O)OC)C=C1 | C31H28N2O5
reactant | lithium hydroxide hydrate | 171 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 5.8 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionic acid | 918 mg, yield 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC=2OC(=C(N2)C2=CC=CC=C2)CCC(=O)O)C=C1 | C30H26N2O5
